US06822100B2
A solution of methylmagnesium bromide (3.0 M in diethyl ether, 0.826 ml, 2.48 mmol, 1.05 equiv) was added to a suspension of [trans-2-[5-cyano-1-(p-toluenesulfonyl)indol-3-yl]cycloprop-1-yl]-N-methoxy-N-methylcarboxamide (1 g, 2.36 mmol) in anhydrous diethyl ether (25 ml). The resulting mixture was stirred at 0° C. for 2 h. The reaction mixture was diluted anhydrous THF (15 ml) and stirred for an additional 3 h at 0° C. The cold mixture was quenched with aqueous 1 M hydrochloric acid (200 ml) and extracted with ethyl acetate (3×100 ml). The combined organic extracts were washed with brine (50 ml), dried over anhydrous magnesium sulfate, filtered, and concentrated. The crude reaction mixture was purified by silica gel column chromatography using a step gradient [2:1, 1:1 (hexanes/ethyl acetate)] to afford 0.518 g (58% yield) of trans-3-(2-acetyl-cyclopropyl)-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile as a white solid: LC-MS (column=Phenomenex Luna C18 S10, 3×50 mm, start % B=0, final % B=100, gradient time=2 min, flow rate=5 ml/min) m/e 379 (M+H)+, tR 2.45 min.

reactant | methylmagnesium bromide | 2.48 mmol, 3.0 M, 0.826 ml, 1.05 equiv | C[Mg]Br
reactant | [trans-2-[5-cyano-1-(p-toluenesulfonyl)indol-3-yl]cycloprop-1-yl]-N-methoxy-N-methylcarboxamide | 2.36 mmol, 1 g | C(#N)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)[C@H]1[C@@H](C1)C(=O)N(C)OC | C22H21N3O4S
reactant | THF | 15 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | trans-3-(2-acetyl-cyclopropyl)-1-(toluene-4-sulfonyl)-1H-indole-5-carbonitrile | 0.518 g, 58% yield | C(C)(=O)[C@H]1[C@@H](C1)C1=CN(C2=CC=C(C=C12)C#N)S(=O)(=O)C1=CC=C(C=C1)C | C21H18N2O3S
